* C:\Users\Jason\Downloads\Real\Real\Draft4.asc
I1 N001 0 2
I2 N002 N001 1
V1 N004 N005 1
R1 N005 0 1
R3 N002 N001 1
R4 N004 N002 1
.op
.backanno
.end
