* C:\Users\Jason\Downloads\Real\Real\CSourcesANDVSourcesANDResistors\SeriesC1FlipSource_R.asc
R1 N001 0 1
I2 N001 N002 2
I1 0 N002 2
.op
.backanno
.end
