* C:\Users\Jason\Downloads\Real\Real\CSourcesANDVSourcesANDResistors\SeriesCSource_R.asc
R1 N001 0 1
I1 N002 0 1
I2 N001 N002 2
.op
.backanno
.end
