* C:\Users\Jason\Downloads\Real\Real\CSourcesANDVSourcesANDResistors\SeriesVSourceCSource_R.asc
R1 N001 0 1
I2 N001 N002 2
V1 N002 0 1
.op
.backanno
.end
