* C:\Users\Jason\Downloads\Real\Real\Transients\OP_V-Sine_V-DC_R+C.asc
V1 N002 0 SINE(0 1 10)
R1 N001 N003 1
V2 N001 N002 1
C1 N003 0 1
.OP
.backanno
.end
