* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\TRAN_V-Sine_I-DC_R+L.asc
V1 N001 0 SINE(0 1 1k)
R1 N001 N002 20k
I1 N001 0 3
L1 N002 N003 0.5m
R2 N003 0 10k
.tran 10m
.backanno
.end
