* C:\Users\Jason\Downloads\Real\Real\Transients\TRAN_V-Sine_V-DC_C+C.asc
V1 N002 0 SINE(0 1 10)
V2 N001 N002 1
C1 N004 0 1
C2 N001 N004 1
.tran 1
.backanno
.end
