* C:\Users\Jason\Downloads\Real\Real\Transients\TRAN_V-Sine_V-DC_L+L.asc
V1 N002 0 SINE(0 1 10)
V2 N001 N002 1
L1 N003 0 1
L2 N001 N003 1
.tran 1
.backanno
.end
