* C:\Users\Jason\Downloads\Real\Real\VSourcesANDResistors\2VSource_2R_version2.asc
V2 N002 0 2
R1 N002 0 1
V1 N001 0 1
R2 N002 N001 1
.op
.backanno
.end
