* C:\Users\Jason\Downloads\Real\Real\VSourcesANDResistors\FlipVSource_seriesR.asc
R1 N001 P001 0.5
R2 P001 0 0.5
V1 0 N001 1V
.op
.backanno
.end
