* C:\Users\Jason\Downloads\Real\Real\VSourcesANDResistors\MixSeriesVSource_R.asc
V1 N003 0 1
V2 N001 N002 1
R1 N002 N003 1
R2 N001 0 1
.op
.backanno
.end
