* C:\Users\Jason\Downloads\Real\Real\VSourcesANDResistors\SeriesVsourcetopflip_R.asc
V1 N002 0 1
V2 N002 N001 1
R1 N001 0 1
.op
.backanno
.end
