* C:\Users\Jason\Downloads\Real\Real\VSourcesANDResistors\seriesVSource_botsmallflip_R.asc
V1 0 N002 1
V2 N001 N002 2
R1 N001 0 1
.op
.backanno
.end
